* C:\Users\Admin\Documents\LTspiceXVII\schem.asc
V1 N001 0 4.1v
V2 N002 0 5v
R1 N002 N001 10k
R2 N001 N005 6.8k
R3 N003 N006 3.3k
XU1 N001 N003 N002 0 N004 LT1001
D1 N003 N005 D
D2 N003 N006 D
D3 0 N003 D
D4 N004 0 D
.model D D
.lib C:\Users\Admin\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 20
.lib LTC.lib
.backanno
.end
